US07659297B2
Ethyl-4-(4-chloro-3-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoate
8.9 g (20.18 mmol) of contaminated ethyl-4-(4-chloro-3-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-(trimethylsilyloxy)-pentanoate is dissolved in 116 ml of tetrahydrofuran and mixed at room temperature with 6.37 g (20.18 mmol) of tetrabutylammonium fluoride trihydrate and stirred for one hour at room temperature. The reaction mixture is mixed with water and extracted twice with 250 ml each of diethyl ether. The combined organic extracts are washed with water and with brine. After drying on sodium sulfate, the dessicant is filtered off, the solvent is spun off, and the remaining residue is chromatographed on silica gel (mobile solvent: ethyl acetate/hexane). 4.03 g (54.2%) of the desired compound is isolated. Other batches are implemented analogously.

reactant | ethyl-4-(4-chloro-3-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-(trimethylsilyloxy)-pentanoate | 20.18 mmol, 8.9 g | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)Cl)OC)(O[Si](C)(C)C)C(F)(F)F)=O | C19H28ClF3O4Si
reactant | tetrabutylammonium fluoride trihydrate | 20.18 mmol, 6.37 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 116 ml | O1CCCC1 | C4H8O
product | Ethyl-4-(4-chloro-3-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoate | 4.03 g, 54.2% | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)Cl)OC)(O)C(F)(F)F)=O | C16H20ClF3O4
